US04111942
10-Acetamido-5,5-dimethyl-8-(1,2-dimethylheptyl)5H-[1]benzopyrano[4,3-c]pyridine (VIII)
Acetyl chloride (0.39 g., 5 mmole) was added to a stirred solution of 0.78 g. (2.2 mmole) of 10-amino-5,5-dimethyl-8-(1,2-dimethylheptyl)-5H-[1]benzopyrano[4,3-c]-pyridine in 10 ml. of dry pyridine, cooled in an ice bath. After stirring at room temperature for 18 hours, the mixture was poured into 100 ml. of ice water and exracted with ether. The ether extracts were washed with water, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by chromatography on a Florisil column (60-100 mesh) and eluted with chloroform and then graded chloroform-methanol mixtures to give the pure product.

reactant | Acetyl chloride | 5 mmole, 0.39 g | C(C)(=O)Cl | C2H3ClO
reactant | 10-amino-5,5-dimethyl-8-(1,2-dimethylheptyl)-5H-[1]benzopyrano[4,3-c]-pyridine | 2.2 mmole | NC1=CC(=CC2=C1C=1C=NC=CC1C(O2)(C)C)C(C(CCCCC)C)C | C23H32N2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 10-Acetamido-5,5-dimethyl-8-(1,2-dimethylheptyl)5H-[1]benzopyrano[4,3-c]pyridine | C(C)(=O)NC1=CC(=CC2=C1C=1C=NC=CC1C(O2)(C)C)C(C(CCCCC)C)C | C25H34N2O2
